US06110628
The temperature of the autoclave was raised to 40° C. and thereafter 667 g of a cyclohexane solution of 30% by weight of butadiene (Bd) (Bd: 200 g) was introduced into the autoclave to carry out a polymerization reaction at 40° C. for 2 hours, obtaining a Bd homopolymer. Then, 200 g of 1,3-cyclohexadiene (CHD) was further introduced into the autoclave to carry out a polymerization reaction at 40° C. for 5 hours. After the polymerization reaction was completed, dehydrated n-heptanol was added in an amount equimolar to Li atoms to terminate the polymerization reaction. Desolvation was effected by a conventional method to obtain a Bd-CHD di-block copolymer.

reactant | butadiene | 200 g | C=CC=C | C4H6
reactant | 1,3-cyclohexadiene | 200 g | C1=CC=CCC1 | C6H8
reactant | n-heptanol | C(CCCCCC)O | C7H16O
solvent | cyclohexane | 667 g | C1CCCCC1 | C6H12
product | Bd CHD | C=CC=C.C1=CC=CCC1 | InChI=1S/C6H8.C4H6/c1-2-4-6-5-3-1;1-3-4-2/h1-4H,5-6H2;3-4H,1-2H2
